US07960404B2
Stage 1:1-(8-(Thiophen-2-yl)-1,4-dioxaspiro[4.5]decan-8-yl)azetidine
A catalytic amount of iodine was added to magnesium (5.1 g) in 50 ml diethyl ether. After 10 minutes a solution of 2-bromothiophene (5.7 g) in 10 ml THF was added to this reaction mixture. Once the Grignard reaction had started, 2-bromothiophene (15 ml) dissolved in 50 ml THF was added dropwise and on completion of the addition the mixture was stirred for two hours at room temperature. 8-Azetidin-1-yl-1,4-dioxaspiro[4,5]decane-8-carbonitrile (12 g) dissolved in 60 ml THF was added dropwise to this reaction mixture at 60-70° C. under a nitrogen atmosphere. Then the reaction mixture was stirred for 1 hour at room temperature and the reaction progress was monitored by thin-layer chromatography (50% EtOAc/hexane). Once the conversion was complete the reaction mixture was cooled to 0° C., quenched with saturated ammonium chloride solution (50 ml) and then extracted with ethyl acetate (2×100 ml). The combined organic phases were dried over Na2SO4. Following removal of the solvent under reduced pressure, the residue was purified by column chromatography (silica, 5-10% EtOAc/hexane). The desired product was obtained as a brown solid (10.2 g, 68%).

reactant | iodine | II | I2
reactant | magnesium | 5.1 g | [Mg] | Mg
reactant | 2-bromothiophene | 5.7 g | BrC=1SC=CC1 | C4H3BrS
reactant | 2-bromothiophene | 15 ml | BrC=1SC=CC1 | C4H3BrS
reactant | 8-Azetidin-1-yl-1,4-dioxaspiro[4,5]decane-8-carbonitrile | 12 g | N1(CCC1)C1(CCC2(OCCO2)CC1)C#N | C12H18N2O2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | 1-(8-(Thiophen-2-yl)-1,4-dioxaspiro[4.5]decan-8-yl)azetidine | S1C(=CC=C1)C1(CCC2(OCCO2)CC1)N1CCC1 | C15H21NO2S
